US05600036
2-Trifluoromethyl-4-chloro-benzalchloride and 2-methyl-3-nitro-5-chlorobenzotrifluoride, are intermediates in a process of preparing 2-methyl-3-aminobenzo-trifluoride. In this process, 2-trifluoromethyl-4-chlorobenzal-chloride is prepared by chlorinating o-trifluoromethylbenzalhalide, and 2-methyl-3-nitro-5-chlorobenzotrifluoride is prepared at first by hydrogenating the 2-trifluoro-methyl-4-chlorobenzalhalide to form a 2-methyl-5-monochlorobenzotrifluoride and then by nitrating the 2-methyl-5-monochlorobenzotrifluoride. Following this process, 2-methyl-3-aminobenzotrifluoride (MA-BTF) is prepared by hydrogenating the 2-methyl-3-nitro-5-chlorobenzotrifluoride. The thus prepared 2-methyl-3-aminobenzotrifluoride is useful as an intermediate in preparing medicines, agricultural chemicals and other chemical products.

reactant | 2-Trifluoromethyl-4-chloro-benzalchloride | FC(C1=C(C(Cl)Cl)C=CC(=C1)Cl)(F)F | C8H4Cl3F3
reactant | 2-methyl-3-nitro-5-chlorobenzotrifluoride | CC1=C(C=C(C=C1[N+](=O)[O-])Cl)C(F)(F)F | C8H5ClF3NO2
reactant | 2-methyl-3-aminobenzo-trifluoride | CC1=C(C=CC=C1N)C(F)(F)F | C8H8F3N
product | 2-methyl-5-monochlorobenzotrifluoride | CC1=C(C=C(C=C1)Cl)C(F)(F)F | C8H6ClF3
